US08748662B2
4-(4-Cyclohexylphenoxy)-2,5-dimethylaniline
A solution of 0.49 g (1.5 mmol) of 4-(4-cyclohexylphenoxy)-2,5-dimethylnitrobenzene in 7 ml of dioxane and 7 ml of hydrochloric acid is admixed with 1.01 g (4.5 mmol) of tin(II) chloride dihydrate at room temperature and the mixture is then refluxed for 2 h. It is cooled to room temperature, neutralized with aqueous NaHCO3 and extracted repeatedly with dichloromethane, and the extracts are dried over Na2SO4 and filtered, and the solvent is removed under reduced pressure. This is followed by purification by column chromatography (0.29 g, purity 95.2%, yield 61.5%, log P (pH 2.3)=4.25).

reactant | 4-(4-cyclohexylphenoxy)-2,5-dimethylnitrobenzene | 1.5 mmol, 0.49 g | C1(CCCCC1)C1=CC=C(OC2=CC(=C(C=C2C)[N+](=O)[O-])C)C=C1 | C20H23NO3
reactant | tin(II) chloride dihydrate | 4.5 mmol, 1.01 g | O.O.[Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 7 ml | Cl | ClH
product | 4-(4-Cyclohexylphenoxy)-2,5-dimethylaniline | yield 61.5% | C1(CCCCC1)C1=CC=C(OC2=CC(=C(N)C=C2C)C)C=C1 | C20H25NO
